US09340506B2
2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide
2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid (preparation 4; (1 equi.) and HATU (1.5 equi) was dissolved in DCM. To this solution was added D1PEA (2 equi.) and stirred for 15 minutes followed by addition of 2-aminothiazole (1 equi.) and continued to stir over night at room temperature. Reaction mixture was diluted with dichloromethane, washed with water, brine, dried over anhydrous sodium sulfate, solvent was removed under reduced pressure to get the crude compound which was purified by flash chromatography to get the title product.

reactant | 2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)OC1CCOCC1 | C19H22N2O5S2
